US07795228B2
Synthesis of (4-ethylphenyl)(4-methoxyphenyl)methanone (1)
To a solution of 4-ethylbenzoyl chloride (8.6 g, 51.0 mmol) in anhydrous DCM (200 mL) at −5 to 0° C., was added anisole (5.46 g, 50.5 mmol), followed by addition of aluminum chloride (7.0 g, 52.5 mmol) over 5 minutes. The resulting yellow reaction mixture was stirred at 0° C. for 1 h and then at rt for 2 h. The reaction mixture was poured into ice water (300 mL), extracted with DCM (300 mL×2). Combined DCM solution was washed with 1M aqueous HCl (300 mL×1), 2 N aqueous NaOH (200 ml×1), brine (400 mL×2), dried over MgSO4 and evaporated to give the product, 12.2 g, yield 100%. 1H NMR (300 MHz, CDCl3) δ 7.80 (d, J=8.7 Hz, 2H), 7.68 (d, J=8.1 Hz, 2H), 7.27 (d, J=8.1 Hz, 2H), 6.93 (d, J=8.7 Hz, 2H), 3.87 (s, 3H), 2.71 (q, J=7.5 Hz, 2H), 1.28 (t, J=7.5 Hz, 3H). ESI-MS m/z 240.9 (M+H)+.

reactant | 4-ethylbenzoyl chloride | 51.0 mmol, 8.6 g | C(C)C1=CC=C(C(=O)Cl)C=C1 | C9H9ClO
reactant | anisole | 50.5 mmol, 5.46 g | C1(=CC=CC=C1)OC | C7H8O
reactant | aluminum chloride | 52.5 mmol, 7.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | (4-ethylphenyl)(4-methoxyphenyl)methanone | yield 100% | C(C)C1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)OC | C16H16O2
